US05668291
2,2'-dithiobis[N-(4-iodophenyl)benzamide]
This compound was prepared according to the general method of Example 77 using 2,2'-dithiobisbenzoyl chloride (2.00 g, 5.83 mmol) in 50 mL of dichloromethane and 4-iodoaniline (2.54 g, 11.6 mmol) in 20 mL of pyridine. The crude product was recrystallized from water-DMF to yield 1.48 g of the title compound, mp 268°-271° C. (dec.).

reactant | 2,2'-dithiobisbenzoyl chloride | 5.83 mmol, 2.00 g | C(C1=C(C=CC=C1)SSC1=C(C(=O)Cl)C=CC=C1)(=O)Cl | C14H8Cl2O2S2
reactant | 4-iodoaniline | 11.6 mmol, 2.54 g | IC1=CC=C(N)C=C1 | C6H6IN
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | pyridine | 20 mL | N1=CC=CC=C1 | C5H5N
product | 2,2'-dithiobis[N-(4-iodophenyl)benzamide] | 1.48 g | IC1=CC=C(C=C1)NC(C1=C(C=CC=C1)SSC1=C(C(=O)NC2=CC=C(C=C2)I)C=CC=C1)=O | C26H18I2N2O2S2
